US07867629B2
Dissolving 20 g (81 mmol) of 4′-iodo acetophenone into 200 milliliter of acetic acid, and adding 12.8 g (81 mmol) of bromine while cooling with ice, stirred at the temperature of 15° C. for 3 hours. After the color of bromine disappeared, adding water and separating the precipitated solids by filtration, thereby obtained 27 g of crude 2-bromo-4′-iodo acetophenone.

reactant | 4′-iodo acetophenone | 81 mmol, 20 g | IC1=CC=C(C=C1)C(C)=O | C8H7IO
reactant | acetic acid | 200 milliliter | C(C)(=O)O | C2H4O2
reactant | bromine | 81 mmol, 12.8 g | BrBr | Br2
solvent | water | O | H2O
product | 2-bromo-4′-iodo acetophenone | 27 g | BrCC(=O)C1=CC=C(C=C1)I | C8H6BrIO
